US04177277
Thiolacetic acid (1 g.) is added to a solution of 5-benzoyloxycarbonylamino-2-bromopentanoic acid [Chem. Pharm. Bull., 24, 326 (1976)] (3.3 g.) in a mixture of water (30 ml.) and potassium carbonate (1.38 g.). The mixture is stirred at room temperature overnight, acidified and extracted with ethyl acetate to yield 2-acetylthio-5-benzyloxycarbonylaminopentanoic acid.

reactant | Thiolacetic acid | 1 g | S1C(=CC=C1)CC(=O)O | C6H6O2S
reactant | 5-benzoyloxycarbonylamino-2-bromopentanoic acid | 3.3 g | C(C1=CC=CC=C1)(=O)OC(=O)NCCCC(C(=O)O)Br | C13H14BrNO5
reactant | water | 30 ml | O | H2O
solvent | potassium carbonate | 1.38 g | C([O-])([O-])=O.[K+].[K+]
product | 2-acetylthio-5-benzyloxycarbonylaminopentanoic acid | C(C)(=O)SC(C(=O)O)CCCNC(=O)OCC1=CC=CC=C1 | C15H19NO5S
